US07723360B2
{3-[4-(2-Ethylbenzimidazol-1-yl)-piperidin-1-yl]-propyl}-(4-fluorophenyl)-amine
To a stirred solution of 2-ethyl-1-piperidin-4-yl-1H-benzimidazole (0.6 g) and (3-chloropropyl)-(4-fluorophenyl)amine (0.4 g) in DMF (7 ml) was added K2CO3 (1.1 g) and KI (0.1 g). The mixture was heated at 100° C. for 2 h, and then allowed to cool to rt. Water (50 ml) was added and the mixture extracted with ethyl acetate (80 ml), and the organic layer separated and washed with water. This was further dried and concentrated in vacuo. The oil was purified by flash chromatography (95:5 DCM:MeOH), and the solid recrystallised from ether to yield 0.3 g of the title compound as colourless crystals. Mp. 121-124° C.

reactant | 2-ethyl-1-piperidin-4-yl-1H-benzimidazole | 0.6 g | C(C)C1=NC2=C(N1C1CCNCC1)C=CC=C2 | C14H19N3
reactant | (3-chloropropyl)-(4-fluorophenyl)amine | 0.4 g | ClCCCNC1=CC=C(C=C1)F | C9H11ClFN
reactant | K2CO3 | 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | {3-[4-(2-Ethylbenzimidazol-1-yl)-piperidin-1-yl]-propyl}-(4-fluorophenyl)-amine | 0.3 g | C(C)C1=NC2=C(N1C1CCN(CC1)CCCNC1=CC=C(C=C1)F)C=CC=C2 | C23H29FN4
